US05605910
A. 1-Cyano-4-azatricyclo[5.2.2.02,6 ]undec-8-ene-3,5-dione
59 g (0.56 mol) of 1-cyano-cyclohexa-1,3-diene are heated at 150° C. with 54 g (0.56 mol) of maleimide and 5 g of 4-(tert-butyl)-pyrocatechol in 1000 ml of dimethylformamide for 8 hours. The mixture is concentrated, the residue is stirred with water and toluene and the product which has crystallized is filtered off with suction, washed with isopropanol and dried in air.

reactant | 1-cyano-cyclohexa-1,3-diene | 0.56 mol, 59 g | C(#N)C1=CC=CCC1 | C7H7N
reactant | maleimide | 0.56 mol, 54 g | C1(C=CC(N1)=O)=O | C4H3NO2
reactant | 4-(tert-butyl)-pyrocatechol | 5 g | C(C)(C)(C)C=1C=C(C(O)=CC1)O | C10H14O2
solvent | dimethylformamide | 1000 ml | CN(C=O)C | C3H7NO
product | 1-Cyano-4-azatricyclo[5.2.2.02,6 ]undec-8-ene-3,5-dione | C(#N)C12C3C(NC(C3C(C=C1)CC2)=O)=O | C11H10N2O2
